US05910506
In dry tetrahydrofuran (5 ml)was dissolved 49 mg (0.48 mmol)of diisopropylamine, and the solution was cooled to 0° C. To this, 0.3 ml of 1.62 M hexane solution of n-butyllithium was added under a stream of nitrogen, and the mixture was stirred for 10 minutes. The mixture was cooled to -78° C., and 85 mg (0.31 mmol)of [1,2-dimethyl-5-(3,5-dimethylphenylthio)imidazol-4-yl]acetonitrile (42d)was added, and the mixture was stirred for 15 minutes. Then, 86 mg (0.48 mmol)of hexamethylphosphoric triamide and 68 mg (0.48 mmol)of methyl iodide were added dropwise, and the mixture was stirred at -78° C. for 30 minutes. The reaction mixture was poured into ice-water, extracted with diethyl ether, and the extract was washed with water and dried over sodium sulfate. The solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography (ethyl acetate)to give 51 mg of 2-[1,2-dimethyl-5-(3,5-dimethylphenylthio)-1H-imidazol-4-yl]propiononitrile (43a)as oil (yield 57%).

reactant | diisopropylamine | 0.48 mmol, 49 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | [1,2-dimethyl-5-(3,5-dimethylphenylthio)imidazol-4-yl]acetonitrile | 0.31 mmol, 85 mg | CN1C(=NC(=C1SC1=CC(=CC(=C1)C)C)CC#N)C | C15H17N3S
reactant | hexamethylphosphoric triamide | 0.48 mmol, 86 mg | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | methyl iodide | 0.48 mmol, 68 mg | CI | CH3I
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.62 M, 0.3 ml | CCCCCC | C6H14
product | 2-[1,2-dimethyl-5-(3,5-dimethylphenylthio)-1H-imidazol-4-yl]propiononitrile | 51 mg | CN1C(=NC(=C1SC1=CC(=CC(=C1)C)C)C(C#N)C)C | C16H19N3S
